US07015234B2
4-(3-Trifluoromethylphenoxy)piperidine-1-carboxylic Acid Tert-butyl Ester
Sodium hydride (0.9 g, 60% dispersion in mineral oil) was added to a solution of 4-hydroxypiperidine-1-carboxylic acid tert-butyl ester (4 g) in NMP (40 ml) and the solution stirred for 1 h, then a solution of 3-fluorobenzotrifluoride (3.5 g) in NMP (10 ml) was added and the mixture was stirred for 2 h at 80 ° C. The mixture was added to water (200 ml) and extracted with diethyl ether (2×100 ml), the solvent washed with water, 1 M sodium hydroxide and brine, dried and evaporated to give the title compound as yellow oil (5.2 g) which was carried through to the next step without purification.

reactant | Sodium hydride | 0.9 g | [H-].[Na+]
reactant | 4-hydroxypiperidine-1-carboxylic acid tert-butyl ester | 4 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | 3-fluorobenzotrifluoride | 3.5 g | FC=1C=C(C=CC1)C(F)(F)F | C7H4F4
reactant | water | 200 ml | O | H2O
solvent | NMP | 40 ml | CN1CCCC1=O | C5H9NO
solvent | NMP | 10 ml | CN1CCCC1=O | C5H9NO
product | 4-(3-Trifluoromethylphenoxy)piperidine-1-carboxylic Acid Tert-butyl Ester | 5.2 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC(=CC=C1)C(F)(F)F | C17H22F3NO3
